US07750184B2
A. 3-(3-Chloro-4-hydroxyphenyl)-3-pentanol
To a solution of methyl 3-chloro-4-hydroxybenzoate (25.0 g, 133 mmol) in THF (250 mL) is added dropwise 1.0 M ethylmagnesium bromide in THF (442 mL, 442 mmol) so as to maintain the temperature below 27° C. The resulting brownish grey solution is allowed to stir for 72 h during which time a cream-colored gelatinous precipitate is formed. The reaction mixture is cooled in an ice bath and quenched with 1 mL portions of sat. ammonium chloride solution until evolution of ethane subsides. Additional NH4Cl solution is added (to a total of 50 mL) and the resulting mixture is concentrated to remove most of the THF. The resulting residue is distributed into water and ether and filtered through diatomaceous earth to break the partial emulsion that forms. The organic layer is washed 3 times with sat. NaCl, dried over anhydrous magnesium sulfate and concentrated under vacuum to give the title compound (28.6 g, 99%).

reactant | methyl 3-chloro-4-hydroxybenzoate | 133 mmol, 25.0 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | ethylmagnesium bromide | 1.0 M | C(C)[Mg]Br
reactant | THF | 250 mL | C1CCOC1 | C4H8O
reactant | THF | 442 mmol, 442 mL | C1CCOC1 | C4H8O
product | 3-(3-Chloro-4-hydroxyphenyl)-3-pentanol | 28.6 g, 99% | ClC=1C=C(C=CC1O)C(CC)(CC)O | C11H15ClO2
